US07897609B2
A suspension of 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol (1.55 g, 3.93 mmol), phenylboronic acid (0.575 g, 4.72 mmol), potassium carbonate (1.79 g, 13.0 mmol), dichlorobis(triphenylphosphine)palladium(II)(0.028 g, 0.039 mmol), DME (13 mL), and water (7 mL) was stirred under a nitrogen atmosphere and then heated at reflux for 61 hours and allowed to cool to room temperature. The volatiles were removed under reduced pressure. The residue was diluted with methanol, and silica gel was added. The mixture was concentrated under reduced pressure. The residue was purified by chromatography according to the method described in Example 59. The resulting foamy solid (1.55 g) was concentrated twice from acetonitrile and then triturated with acetonitrile (25 mL) to provide a solid. The solid was isolated by filtration, washed with acetonitrile, and dried in a vacuum oven at 65° C. to provide 887 mg of 1-[4-amino-2-(ethoxymethyl)-7-phenyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol as an off-white solid, mp 158-159° C.

reactant | 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 3.93 mmol, 1.55 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)Br | C16H20BrN5O2
reactant | phenylboronic acid | 4.72 mmol, 0.575 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 13.0 mmol, 1.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | DME | 13 mL | COCCOC | C4H10O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.039 mmol, 0.028 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 7 mL | O | H2O
product | 1-[4-amino-2-(ethoxymethyl)-7-phenyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 887 mg | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)C2=CC=CC=C2 | C22H25N5O2
